US07625922B2
1-(1-(4-chlorophenyl)-3-methyl-1H-pyrazol-5-yl)-3-(4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl-oxy)phenyl)urea (CJS 3620)
Method F was used with phenyl 1-(4-chlorophenyl)-3-methyl-1H-pyrazol-5-yl-carbamate (41 mg, 0.12 mmol) and 7-(4-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one (20 mg, 0.08 mmol). The solid residue obtained after evaporation of the solvents was washed only with Et2O to afford the title compound (31 mg, 79%) as a pale pink solid. 1H-NMR (6, ppm, DMSO-d6): 2.19 (s, 3H, CH3), 6.28 (s, 1H, HPyz,4), 6.31 (d, 1H, HPy,5, J=5.8 Hz), 7.10 (d, 2H, Harom,Ph,3+5, J=8.9 Hz), 7.47 (d, 2H, Harom,Ph,2+6, J=8.9 Hz), 7.57 (m, 4H, Harom,4—Cl—Ph), 7.74 (d, 1H, HPy,6, J=5.8 Hz), 8.47 (bs, 1H, NHurea), 9.05 (bs, 1H, NHurea), 11.19 (bs, 1H, NHPy3), 11.37 (bs, 1H, NHPy2). 13C-NMR (6, ppm, DMSO-d6): 13.7, 99.3, 105.1, 112.8, 119.8, 120.5, 125.7, 129.2, 131.5, 136.3, 137.2, 137.5, 141.2, 145.8, 146.8, 148.2, 148.5, 151.6, 154.1. LC-MS (m/z): 476 (M+H, 100). HRMS (EI): m/z [M+H]+ calcd. for C23H19N7O3Cl: 476.1238; found: 476.1213.

reactant | phenyl 1-(4-chlorophenyl)-3-methyl-1H-pyrazol-5-yl-carbamate | 0.12 mmol, 41 mg | ClC1=CC=C(C=C1)N1N=C(C=C1NC(OC1=CC=CC=C1)=O)C | C17H14ClN3O2
reactant | 7-(4-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | 0.08 mmol, 20 mg | NC1=CC=C(OC2=C3C(=NC=C2)NC(N3)=O)C=C1 | C12H10N4O2
product | 1-(1-(4-chlorophenyl)-3-methyl-1H-pyrazol-5-yl)-3-(4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl-oxy)phenyl)urea | 31 mg, 79% | ClC1=CC=C(C=C1)N1N=C(C=C1NC(=O)NC1=CC=C(C=C1)OC1=C2C(=NC=C1)NC(N2)=O)C | C23H18ClN7O3
